US08975254B2
c) 1H-Indazole-3-carboxylic acid {2-[5-(3,4-dichlorophenyl)-furan-2-yl]-ethyl}-amide
Indazole-3-carboxylic acid (30 mg; 0.182 mmol), DCC (56 mg, 0.273 mmol) and DMAP (2 mg) were dissolved in DCM:DMF (1:1, 4 ml). 2-(5-(3,4-dichlorophenyl)furan-2-yl)ethanamine (46 mg, 0.182 mmol) was added and the reaction mixture was stirred for overnight at RT. DCM (30 ml) was added and organic layer washed with water (3×15 ml). Combined organic phases were dried over Na2SO4, evaporated and purified by chromatography (silica column, eluent: 1% MeOH/DCM) to give 25 mg (34%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 3.00 (t, 2H), 3.63 (q, 2H), 6.37 (d, 1H), 7.02 (d, 1H), 7.23 (t, 1H), 7.41 (t, 1H), 7.60 (d, 1H), 7.61 (d, 2H), 7.85 (d, 1H), 8.16 (d, 1H), 8.54 (d, 1H), 13.56 (s, 1H).

reactant | Indazole-3-carboxylic acid | 0.182 mmol, 30 mg | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | DCC | 0.273 mmol, 56 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 2-(5-(3,4-dichlorophenyl)furan-2-yl)ethanamine | 0.182 mmol, 46 mg | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCN | C12H11Cl2NO
reactant | DCM | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM DMF | 4 ml | C(Cl)Cl.CN(C)C=O
product | 1H-Indazole-3-carboxylic acid {2-[5-(3,4-dichlorophenyl)-furan-2-yl]-ethyl}-amide | 25 mg, 34% | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C1=NNC2=CC=CC=C12 | C20H15Cl2N3O2
